US08198311B2
To a stirred solution of (1-(4-fluorophenyl)-1H-indazol-5-yl)methanol (0.45 g, 1.9 mmol) in acetone (10 mL) was added Jones' reagent (3 mL) dropwise at 0° C. The reaction mixture was stirred at rt for 1 hr and concentrated under reduced pressure. Water was added to the residue and the solid that separates out was filtered, washed with water and dried to give 1-(4-fluorophenyl)-1H-indazole-5-carboxylic acid (0.43 g, 1.7 mmol, 89% yield) as a yellow solid.

reactant | (1-(4-fluorophenyl)-1H-indazol-5-yl)methanol | 1.9 mmol, 0.45 g | FC1=CC=C(C=C1)N1N=CC2=CC(=CC=C12)CO | C14H11FN2O
reactant | Jones' reagent | 3 mL | CC(=O)C.OS(=O)(=O)O.O=[Cr](=O)=O
solvent | acetone | 10 mL | CC(=O)C | C3H6O
product | 1-(4-fluorophenyl)-1H-indazole-5-carboxylic acid | 1.7 mmol, 0.43 g, 89% yield | FC1=CC=C(C=C1)N1N=CC2=CC(=CC=C12)C(=O)O | C14H9FN2O2
